US09216999B2
1-(trans-4-Methoxycyclohexyl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
1-(4-[(trans-4-Methoxycyclohexyl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone (179 mg, 0.428 mmol) in N,N-dimethylformamide dimethyl acetal (3 mL) was stirred at 170° C. for 6 hours under microwave irradiation. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure, and the resulting residue was dissolved in tetrahydrofuran (3 mL) and stirred with 1 M hydrochloric acid (3 mL) at 80° C. for 1 hour. The reaction mixture was allowed to cool to room temperature and, after addition of saturated aqueous sodium hydrogen carbonate, extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=9/1 (v/v)) to give the title compound (141 mg, yield 77%).

reactant | 1-(4-[(trans-4-Methoxycyclohexyl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone | 0.428 mmol, 179 mg | CO[C@@H]1CC[C@H](CC1)NC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C22H35N3O3Si
reactant | N,N-dimethylformamide dimethyl acetal | 3 mL | COC(N(C)C)OC | C5H13NO2
product | 1-(trans-4-Methoxycyclohexyl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 141 mg, yield 77% | CO[C@@H]1CC[C@H](CC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C23H33N3O3Si
